US07459554B2
cis-3-(3-Azidomethyl-cyclobutyl)-1-(3-benzyloxyphenyl)-imidazo[1,5-a]pyrazin-8-ylamine:
A solution of cis-toluene-4-sulfonic acid 3-[8-amino-1-(3-benzyloxyphenyl)-imidazo[1,5-a]pyrazin-3-yl]cyclobutylmethyl ester (100 mg, 0.18 mmol) in DMF (2 mL) was charged with sodium azide (35 mg, 0.54 mmol), the resulting mixture was stirred at rt overnight. The mixture was diluted with water (5 mL), then extracted with ethyl acetate (3×10 mL), the combined organic phases were washed with water (2×10 mL) and brine (10 mL), and dried over anhydrous sodium sulfate. The filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (eluting with 100% ethyl acetate), yielding the title compound as a white solid; LC-MS (ES, Pos.): m/z 426 [MH+]; 1H NMR (CDCl3, 400 MHz) δ 2.36-2.44 (m, 2H), 2.63-2.79 (m, 3H), 3.37 (d, J=6.7 Hz, 2H), 3.69 (m, 1H), 5.14 (s, 4H, —OCH2— and —NH2), 7.02-7.05 (m, 2H), 7.10 (d, J=5.0 Hz, 1H), 7.25-7.45 (m, 8H).

reactant | cis-toluene-4-sulfonic acid 3-[8-amino-1-(3-benzyloxyphenyl)-imidazo[1,5-a]pyrazin-3-yl]cyclobutylmethyl ester | 0.18 mmol, 100 mg | NC=1C=2N(C=CN1)C(=NC2C2=CC(=CC=C2)OCC2=CC=CC=C2)[C@H]2C[C@H](C2)COS(=O)(=O)C2=CC=C(C=C2)C | C31H30N4O4S
reactant | sodium azide | 0.54 mmol, 35 mg | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | water | 5 mL | O | H2O
product | cis-3-(3-Azidomethyl-cyclobutyl)-1-(3-benzyloxyphenyl)-imidazo[1,5-a]pyrazin-8-ylamine | N(=[N+]=[N-])C[C@H]1C[C@H](C1)C1=NC(=C2N1C=CN=C2N)C2=CC(=CC=C2)OCC2=CC=CC=C2 | C24H23N7O
